US06096735
To 4-phenyl-1-(4-cyanophenyl)piperidine (0.39 g) are added acetic acid (10 ml) and conc. hydrochloric acid (10 ml), and the mixture is refluxed for five hours. The reaction solution is concentrated, and to the residue is added diethyl ether/methanol. The insoluble crystals are collected by filtration, and dried under reduced pressure to give 4-phenyl-1-(4-carboxyphenyl)piperidine (0.39 g) as white powder.

reactant | 4-phenyl-1-(4-cyanophenyl)piperidine | 0.39 g | C1(=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)C#N | C18H18N2
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 4-phenyl-1-(4-carboxyphenyl)piperidine | 0.39 g | C1(=CC=CC=C1)C1CCN(CC1)C1=CC=C(C=C1)C(=O)O | C18H19NO2
